* source CIRCUITO PROTECCION
D_D1         N000500 N00201 D1N5817 
D_D2         N00201 N00267 D1N5817 
R_R1         N00194 N00201  100 TC=0,0 
R_R2         0 N00201  1k TC=0,0 
V_V2         N00267 0 4.77
V_V3         N000500 0 0.26
V_V4         N00194 0  AC 0
+SIN 0 7 10 0 0 0
V_V5         N01599 0 12
X_U1         0 N01603 VCC -VCC N01620 uA741
X_U2         0 N01646 VCC -VCC N01663 uA741
R_R3         N01603 N01620  4.7k TC=0,0 
R_R4         N01620 N01646  1k TC=0,0 
R_R5         N01646 N01663  1k TC=0,0 
R_R6         N01599 N015540  10k TC=0,0 
R_R7         N015540 N01603  1k TC=0,0 
V_V6         VCC 0 12
V_V7         -VCC 0 -12
