* source PASO_BAJO
C_C1         N00186 0  1u  TC=0,0 
C_C2         0 N00175  1u  TC=0,0 
R_R1         N00182 N00175  33k TC=0,0 
R_R2         N00298 N00186  33k TC=0,0 
V_V1         N00298 0  
+PULSE 0V 5V 1u 1u 1u 0.5ms 2ms
V_V2         -VCC 0 -10V
V_V3         VCC 0 10V
R_R3         N01377 VOUT  1k TC=0,0 
X_U3A         N00186 N00182 VCC -VCC N00182 TL082
R_R4         0 N01377  1k TC=0,0 
R_R5         N01904 VHIST  82.2k TC=0,0 
R_R6         N29685 N01904  1k TC=0,0 
X_U4A         N00175 N01377 VCC -VCC VOUT TL082
R_R7         N02297 VE  1k TC=0,0 
R_R8         N02697 N02297  1k TC=0,0 
R_R9         VOUT N02279  1k TC=0,0 
R_R10         0 N02279  1k TC=0,0 
X_U5         N02279 N02297 VCC -VCC VE uA741
V_V4         N02697 0  AC 0
+SIN 2.5 0.5 1k 0 0 0
X_U6         N01904 0 VCC -VCC VHIST uA741
R_R11         N12084 N06457  1k TC=0,0 
R_R12         N06457 N06464  1k TC=0,0 
R_R13         N06464 N06547  1k TC=0,0 
R_R14         N06547 N06571  1k TC=0,0 
R_R15         N06464 N06491  8.2k TC=0,0 
R_R17         N06571 N06655  1k TC=0,0 
R_R18         N06887 N06655  1k TC=0,0 
R_R19         N07019 N06655  1k TC=0,0 
R_R20         N06655 N06707  1k TC=0,0 
X_U7         0 N06457 VCC -VCC N06464 uA741
X_U8         0 N06547 VCC -VCC N06571 uA741
X_U9         0 N06655 VCC -VCC N06707 uA741
X_U10         0 N06864 VCC -VCC N06887 uA741
X_U11         0 N07087 VCC -VCC N07019 uA741
C_C3         N06864 N06887  1u  TC=0,0 
C_C4         N06464 N07087  1u  TC=0,0 
E_LAPLACE1         N12471 0 LAPLACE {V(N06707)} {(0.63)/(1.8*s +1 )}
R_R22         N12066 N12070  1k TC=0,0 
X_U12         N12244 N12070 VCC -VCC N12084 uA741
R_R24         N12471 N12244  1k TC=0,0 
R_R25         0 N12244  1k TC=0,0 
R_R23         N12070 N12084  1k TC=0,0 
V_V5         N12066 0 2.5V
R_R27         N14645 N14659  1k TC=0,0 
X_U13         0 N14669 VCC -VCC N14679 uA741
X_U17         0 N14879 VCC -VCC N15109 uA741
R_R34         N14879 N15109  1k TC=0,0 
R_R31         N14935 N14939  1k TC=0,0 
R_R30         N14679 N14879  1k TC=0,0 
E_LAPLACE2         N14935 0 LAPLACE {V(N15109)} {(0.63)/(1.8*s +1 )}
X_U14         N14939 N14645 VCC -VCC N14659 uA741
R_R33         0 N14939  1k TC=0,0 
R_R35         N14659 N15005  1k TC=0,0 
R_R28         N14669 N14679  1k TC=0,0 
R_R26         N14641 N14645  1k TC=0,0 
V_V6         N14641 0 2.5V
X_U15         0 N15005 VCC -VCC N14827 uA741
R_R29         N14827 N14669  1k TC=0,0 
R_R38         N18647 N18657  1k TC=0,0 
X_U21         0 N19059 VCC -VCC N19069 uA741
E_LAPLACE3         N18913 0 LAPLACE {V(N19087)} {(0.63)/(1.8*s +1 )}
X_U22         0 N18857 VCC -VCC N19087 uA741
R_R40         N18657 N18857  1k TC=0,0 
R_R44         N18857 N19087  1k TC=0,0 
X_U19         N18917 N18623 VCC -VCC N18637 uA741
V_V7         N18619 0 2.5V
R_R36         N18619 N18623  1k TC=0,0 
R_R43         0 N18917  1k TC=0,0 
R_R39         N18805 N18647  1k TC=0,0 
R_R37         N18623 N18637  1k TC=0,0 
C_C5         N19059 N19069  1u  TC=0,0 
X_U18         0 N18647 VCC -VCC N18657 uA741
R_R48         N19069 N18857  1k TC=0,0 
R_R45         N18637 N18983  1k TC=0,0 
R_R41         N18913 N18917  1k TC=0,0 
R_R46         N18805 N19281  8.2k TC=0,0 
X_U20         0 N18983 VCC -VCC N18805 uA741
R_R49         N24976 N24983  1k TC=0,0 
D_D4         0 N24983 D1N4740A 
V_Vprueba         N29685 0 0v
R_R56         N15005 N14827  100 TC=0,0 
X_U27         0 N40685 VCC -VCC N40743 uA741
R_R66         N40685 N40743  3.3k TC=0,0 
R_R67         N42643 N40685  3.3k TC=0,0 
C_C7         N42333 N43077  1u  TC=0,0 
X_U30         0 N42531 VCC -VCC N42333 uA741
R_R68         N42147 N42151  1k TC=0,0 
X_U31         0 N42615 VCC -VCC N42625 uA741
R_R76         0 N42445  1k TC=0,0 
C_C6         N42615 N42625  1u  TC=0,0 
X_U33         0 N43077 VCC -VCC N43089 uA741
R_R77         N42385 N42643  1k TC=0,0 
X_U29         N42445 N42151 VCC -VCC N42165 uA741
R_R72         N42185 N42385  1k TC=0,0 
R_R83         N43089 N42385  1k TC=0,0 
X_R82         N43077 N43077 N43089 POT PARAMS: SET=0.5 VALUE=100k
X_R75         N42541 N42541 N42333 POT PARAMS: SET=0.5 VALUE=10k
R_R78         N42165 N42531  1k TC=0,0 
E_LAPLACE4         N42441 0 LAPLACE {V(N40743)} {(0.63)/(1.8*s +1 )}
R_R73         N42441 N42445  1k TC=0,0 
R_R69         N42151 N42165  1k TC=0,0 
V_V10         N42147 0 -2.5V
R_R79         N42333 N42833  8.2k TC=0,0 
R_R74         N42531 N42541  100 TC=0,0 
R_R70         N42175 N42185  1k TC=0,0 
R_R71         N42333 N42175  1k TC=0,0 
X_R80         N42833 N42833 N42615 POT PARAMS: SET=0.5 VALUE=100k
X_U32         0 N42385 VCC -VCC N42643 uA741
R_R81         N42625 N42385  1k TC=0,0 
X_U28         0 N42175 VCC -VCC N42185 uA741
R_R84         N18983 N18805  10k TC=0,0 
R_R85         N19281 N19059  10k TC=0,0 
R_R87         N06491 N06864  10k TC=0,0 
R_R88         N07087 N07019  10k TC=0,0 
V_V11         N24976 0  AC 0
+SIN 0 15 1k 0 0 0
D_D3         0 N24983 D1N5817 
