* source EJ5
X_U1         0 N00187 VCC -VCC N00212 uA741
R_R1         N00180 N00187  1k TC=0,0 
R_R2         N00187 N00212  2k TC=0,0 
V_V1         N00180 0  AC 0
+SIN 0 10 20 0 0 0
V_V2         VCC 0 15
V_V3         -VCC 0 -15
